US06596751B2
4-(1-Methyl-6-methoxy-1H-benzimidazol-2-ylmethoxy)phenyllactic acid hydrochloride (hydrochloride of exemplification compound number 1-177)
A mixture of methyl 4-(1-methyl-6-methoxy-1H-benzimidazol-2-ylmethoxy)phenyllactate (0.2 g), methanol (5 ml) and 4N hydrogen chloride/dioxane (10 ml) was stirred at room temperature for 2 hours. The reaction mixture was concentrated to give crystals. The crystals were washed with a mixture of methanol and ether to afford the title compound (0.2 g, mp 193-195° C.).

reactant | methyl 4-(1-methyl-6-methoxy-1H-benzimidazol-2-ylmethoxy)phenyllactate | 0.2 g | CN1C(=NC2=C1C=C(C=C2)OC)COC2=CC=C(C=C2)C(C(=O)OC)(O)C | C20H22N2O5
reactant | hydrogen chloride dioxane | 4N, 10 ml | Cl.O1CCOCC1
solvent | methanol | 5 ml | CO | CH4O
product | 4-(1-Methyl-6-methoxy-1H-benzimidazol-2-ylmethoxy)phenyllactic acid hydrochloride | 0.2 g | Cl.CN1C(=NC2=C1C=C(C=C2)OC)COC2=CC=C(C=C2)C(C(=O)O)(O)C | InChI=1S/C19H20N2O5.ClH/c1-19(24,18(22)23)12-4-6-13(7-5-12)26-11-17-20-15-9-8-14(25-3)10-16(15)21(17)2;/h4-10,24H,11H2,1-3H3,(H,22,23);1H
